US08802661B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-(3-carboxypropanoyloxy)ethyl)(methyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of 2-((2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethyl)(methyl)amino)ethyl tert-butyl succinate (40 mg, 0.046 mmol) in dioxane (1 mL) was added 4N HCl (0.115 mL, 0.459 mmol). The reaction mixture was stirred at 20° C. for 3 hours. LCMS indicated the formation of desired product. The reaction mixture was neutralized with 1N NaOH and then filtered. The clear solution was purified by prep HPLC to provide the desired product as colourless oil (7.2 mg, 20%). LCMS: m/e 759.34 (M+H)+, 2.37 min (method 1). 1H NMR (400 MHz, Acetic Acid-d4) δ ppm 7.99 (d, J=8.28 Hz, 2H), 7.26 (d, J=8.53 Hz, 2H), 5.33 (d, J=4.77 Hz, 1H), 4.74 (s, 1H), 4.61 (s, 1H), 4.56-4.44 (m, 2H), 3.90-3.65 (m, 2H), 3.62-3.52 (m, 2H), 3.50-3.38 (m, 2H), 3.19-3.05 (m, 1H), 3.01 (s, 3H), 2.72 (s, 4H), 2.58-2.42 (m, 1H), 2.26-2.11 (m, 2H), 1.69 (s, 3H), 1.96-1.07 (m, 19H), 1.04 (s, 3H), 1.02 (s, 3H), 1.02 (s, 3H), 0.97 (s, 3H), 0.95 (s, 3H).

reactant | 2-((2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethyl)(methyl)amino)ethyl tert-butyl succinate | 0.046 mmol, 40 mg | C(CCC(=O)OC(C)(C)C)(=O)OCCN(C)CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C=C1)C(=O)OC(C)(C)C)C)[C@@H](CC2)C(=C)C | C54H82N2O7
reactant | HCl | 0.459 mmol, 4N, 0.115 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-(3-carboxypropanoyloxy)ethyl)(methyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | C(=O)(O)CCC(=O)OCCN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)C | C46H66N2O7
